US08252825B2
STEP B: 3-methylhex-4-enyl 4-nitrobenzoate
A solution of freshly crystallized 4-nitrobenzoyl chloride (10.1 g, 54.5 mmol) in CH2Cl2 (ml 20) was added dropwise to a solution of 3-methyl-hex-4-en-1-ol (5.4 g, 47.5 mmol) and TEA (8.6 ml, 61.8 mmol) in CH2Cl2 (ml 50) at 0° C. under nitrogen. The mixture was stirred at 0° C. for 1 h and poured in ice/water (100 g). The CH2Cl2 was separated and the water phase was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The crude product was distilled at 171-173° C. 4 mmHg to give the title compound as yellow oil.

reactant | 4-nitrobenzoyl chloride | 54.5 mmol, 10.1 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 3-methyl-hex-4-en-1-ol | 47.5 mmol, 5.4 g | CC(CCO)C=CC | C7H14O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-methylhex-4-enyl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)OCCC(C=CC)C)C=C1 | C14H17NO4
